US09120785B2
To a flask containing racemic trans-4-[1-(5-{6-[(4-cyclopropylpyridin-2-yl)amino]-4-methylpyridin-2-yl}-1,3-thiazol-2-yl)-1-hydroxypropyl]cyclohexanecarboxylic acid (25 mg, 0.051 mmol) was added 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (25.1 mg, 0.066 mmol) and ammonium chloride (10.9 mg, 0.203 mmol). DMF (1 mL) and N,N-diisopropylethylamine (0.089 mL, 0.507 mmol) were added and the reaction was sealed and stirred for 2 hours. Methanol (0.1 mL) was then added to quench the reaction and the resulting solution was filtered. The filtrate was purified by reversed phase HPLC (10-100% acetonitrile/water with 0.1% TFA). The fractions containing desired product were pooled, frozen and concentrated to dryness on a lyophilizer to afford trans-4-[1-(5-{6-[(4-cyclopropylpyridin-2-yl)amino]-4-methylpyridin-2-yl}-1,3-thiazol-2-yl)-1-hydroxypropyl]cyclohexanecarboxamide. MS ESI calc'd. for C27H34N5O2S [M+H]+ 492. found 492. 1H NMR (500 MHz, DMSO-d6) δ 11.31 (s, 1H), 8.49 (s, 1H), 8.30 (d, J=6.4 Hz, 1H), 7.53 (s, 1H), 7.38 (s, 1H), 7.15 (s, 1H), 7.04 (d, J=6.4 Hz, 1H), 6.94 (s, 1H), 6.68 (s, 1H), 5.84-5.30 (m, 1H), 2.43 (s, 3H), 2.30-2.15 (m, 1H), 2.07-1.87 (m, 4H), 1.87-1.67 (m, 3H), 1.54-1.42 (m, 1H), 1.42-1.18 (m, 6H), 1.12-0.93 (m, 3H), 0.79 (t, J=7.3 Hz, 3H) ppm. rhSyk=+++.

reactant | racemic trans-4-[1-(5-{6-[(4-cyclopropylpyridin-2-yl)amino]-4-methylpyridin-2-yl}-1,3-thiazol-2-yl)-1-hydroxypropyl]cyclohexanecarboxylic acid | 0.051 mmol, 25 mg | C1(CC1)C1=CC(=NC=C1)NC1=CC(=CC(=N1)C1=CN=C(S1)C(CC)(O)[C@@H]1CC[C@H](CC1)C(=O)O)C | C27H32N4O3S
reactant | 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.066 mmol, 25.1 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | ammonium chloride | 0.203 mmol, 10.9 mg | [Cl-].[NH4+]
reactant | N,N-diisopropylethylamine | 0.507 mmol, 0.089 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | Methanol | 0.1 mL | CO | CH4O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | trans-4-[1-(5-{6-[(4-cyclopropylpyridin-2-yl)amino]-4-methylpyridin-2-yl}-1,3-thiazol-2-yl)-1-hydroxypropyl]cyclohexanecarboxamide | C1(CC1)C1=CC(=NC=C1)NC1=CC(=CC(=N1)C1=CN=C(S1)C(CC)(O)[C@@H]1CC[C@H](CC1)C(=O)N)C | C27H33N5O2S
